US09340546B2
Step 2: 3,5-diamino-N-(5-fluoro-4-(4-(4-methylpiperazine-1-carbonyl)piperidin-1-yl)pyridin-3-yl)-1H-pyrazole-4-carboxamide 9a
3-Amino-4,4,4-trichloro-2-cyano-N-[5-fluoro-4-[4-(4-methylpiperazine-1-carbonyl)-1-piperidyl]-3-pyridyl]but-2-enamide (4.1 g, 7.695 mmol) was dissolved in N-methylpyrrolidinone (40 mL). Hydrazine hydrate (1.002 g, 973.8 μL, 20.01 mmol) was added and the reaction mixture was stirred at room temperature for 10 mins, then heated at 80° C. for 3.5 h. The mixture was concentrated in vacuo and the residue was then partitioned between EtOAc/water. The organic layer was washed with water (2×), brine (1×), dried (MgSO4), filtered and concentrated in vacuo to provide the desired compound as a white solid. (64%). MS (ES+) 446.1, 1H NMR (500 MHz, DMSO) 11.03 (s, 1H), 9.45 (s, 1H), 8.69 (s, 1H), 8.52 (d, J=4.7 Hz, 1H), 7.36 (br s, 4H), 4.47-4.43 (m, 1H), 4.23-4.21 (m, 1H), 3.50-3.47 (m, 2H), 3.41-3.39 (m, 2H), 3.24-3.15 (m, 2H) 3.05-2.98 (m, 2H), 2.93-2.88 (m, 2H), 2.77-2.76 (m, 4H), 1.73-1.71 (m, 4H).

reactant | 3-Amino-4,4,4-trichloro-2-cyano-N-[5-fluoro-4-[4-(4-methylpiperazine-1-carbonyl)-1-piperidyl]-3-pyridyl]but-2-enamide | 7.695 mmol, 4.1 g | NC(=C(C(=O)NC=1C=NC=C(C1N1CCC(CC1)C(=O)N1CCN(CC1)C)F)C#N)C(Cl)(Cl)Cl | C21H25Cl3FN7O2
reactant | Hydrazine hydrate | 20.01 mmol, 973.8 μL, 1.002 g | O.NN
solvent | N-methylpyrrolidinone | 40 mL | CN1C(CCC1)=O | C5H9NO
product | 3,5-diamino-N-(5-fluoro-4-(4-(4-methylpiperazine-1-carbonyl)piperidin-1-yl)pyridin-3-yl)-1H-pyrazole-4-carboxamide | NC1=NNC(=C1C(=O)NC=1C=NC=C(C1N1CCC(CC1)C(=O)N1CCN(CC1)C)F)N | C20H28FN9O2
